US07053089B2
To a stirred solution of 4-[(pyridazin-4-ylamino)-methyl]-piperidine (0.20 g, 1.04 mmol), in DMF (3 mL) was added carbonic acid benzyl ester 2,5-dioxo-pyrrolidin-1-yl ester (0.26 g, 1.04 mmol). The resulting reaction solution was stirred at rt for 0.5 h, then concentrated in vacuo. The residue was purified by silica gel chromatography (1-7 (10% NH4OH in MeOH)/99-93 CH2Cl2) to give 4-(pyridazin-4-ylamino)-methyl]-piperidine-1-carboxylic acid benzyl ester.

reactant | 4-[(pyridazin-4-ylamino)-methyl]-piperidine | 1.04 mmol, 0.20 g | N1=NC=C(C=C1)NCC1CCNCC1 | C10H16N4
reactant | carbonic acid benzyl ester 2,5-dioxo-pyrrolidin-1-yl ester | 1.04 mmol, 0.26 g | O=C1N(C(CC1)=O)OC(OCC1=CC=CC=C1)=O | C12H11NO5
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1CCCCC1 | C13H17NO2
